US05972978
To a mixture of 2-naphthyl carboxylic acid (5.0 g, 29.0 mmol) and 2 drops of N,N'-dimethylformamide in dry tetrahydrofuran (50 ml) was added dropwise thionyl chloride (6.3 ml, 87 mmol) and the resulting reaction mixture was stirred at reflux temperature for 3 h. The volatiles were evaporated in vacuo and the solid residue was redissolved in dry tetrahydrofuran (30 ml) and added dropwise to a solution of potassium thiocyanate (2.9 g, 30 mmol) in acetone (40 ml). The reaction mixture was stirred at room temperature for 16 h. The reaction mixture was quenched with water (250 ml) and extracted. with diethyl ether (2×100 ml). The combined organic extracts were washed with saturated aqueous sodium chloride (2×80 ml), dhed (MgSO4), filtered and evaporated in vacuo affording 5.2 g (84%) of naphthalene-2-carbonyl isothiocyanate.

reactant | 2-naphthyl carboxylic acid | 29.0 mmol, 5.0 g | C1=C(C=CC2=CC=CC=C12)C(=O)O | C11H8O2
reactant | thionyl chloride | 87 mmol, 6.3 ml | S(=O)(Cl)Cl | Cl2OS
reactant | potassium thiocyanate | 30 mmol, 2.9 g | [S-]C#N.[K+]
catalyst | N,N'-dimethylformamide | 2 drops | CN(C)C=O | C3H7NO
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | acetone | 40 ml | CC(=O)C | C3H6O
product | naphthalene-2-carbonyl isothiocyanate | 5.2 g, 84% | C1=C(C=CC2=CC=CC=C12)C(=O)N=C=S | C12H7NOS
